US04130650
16 gm of 2-[o-(β-chloro-ethoxy)-styryl]-pyridine (m.p. 57°-59° C.) were dissolved in 50 ml of methanol, the solution was mixed at -15° C. with 120 ml of liquid methylamine freshly removed from a bomb, and the mixture was heated at 80° C. in an autoclave for 4 hours. After cooling and releasing the pressure, the contents of the autoclave were evaporated, the residue was dissolved in dilute acetic acid, and the solution was extracted twice with ether to remove weakly basic products. Then, the aqueous phase was made alkaline with 2 N sodium hydroxide solution and was extracted with ethyl acetate. After drying the ethyl acetate extract with sodium sulfate and distilling off the solvent, an oily residue was obtained which crystallized after standing overnight. 13.6 gm (88.2% of theory) of 2-[o-(β-methylaminoethoxy)-styryl]-pyridine were obtained.

reactant | 2-[o-(β-chloro-ethoxy)-styryl]-pyridine | 16 gm | ClCCOC1=C(C=CC2=NC=CC=C2)C=CC=C1 | C15H14ClNO
reactant | methylamine | CN | CH5N
solvent | methanol | 50 ml | CO | CH4O
product | 2-[o-(β-methylaminoethoxy)-styryl]-pyridine | 13.6 gm, 88.2% | CNCCOC1=C(C=CC2=NC=CC=C2)C=CC=C1 | C16H18N2O
